US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-methylaminopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (150 mg) is dissolved in N,N-dimethylformamide (5 ml), and thereto are added ethyl 4-bromobutyrate (13 μl) and potassium carbonate (50 mg). The mixture is heated at 50° C. and stirred for 2 hours. The reaction solution is cooled to room temperature, and partitioned by adding a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=9:1→3:2) to give (2R,4S)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[(3-ethoxycarbonylpropyl)-methyl]aminopyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (85 mg). MS (m/z): 727 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-methylaminopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NC)CC | C28H30F6N6O3
reactant | ethyl 4-bromobutyrate | 13 μl | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2R,4S)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[(3-ethoxycarbonylpropyl)-methyl]aminopyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 85 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NCCCCC(=O)OCC)CC | C34H40F6N6O5
